US07851569B2
Under nitrogen atmosphere, 2-methoxy-1-bromo-3-tert-butyl-5-methylbenzene (20.00 g, 77.77 mmol) was dissolved in 200 mL of diethyl ether. A 1.57 M hexane solution of n-butyllithium (59.44 mL, 93.32 mmol) was dropwise added at −50° C. or lower, and a temperature was raised to room temperature, followed by stirring for 1 hour. All the amount of diethyldichlorosilane (24.44 g, 155.54 mmol) was added to the mixture at once at −50° C. or lower, and a temperature was gradually raised to room temperature. After being refluxed for 1 hour, the solution was concentrated under reduced pressure. Hexane was added, the insolubles were filtered off with a Celite filter, and the filtrate was concentrated under reduced pressure. Concentration was further continued at 70° C. under reduced pressure for 3 hours to obtain (2-methoxy-3-tert-butyl-5-methylphenyl)chlorodimethylsilane. Resultant (2-methoxy-3-tert-butyl-5-methylphenyl)chlorodimethylsilane was used in a subsequent reaction without further purification.

reactant | 2-methoxy-1-bromo-3-tert-butyl-5-methylbenzene | 77.77 mmol, 20.00 g | COC1=C(C=C(C=C1C(C)(C)C)C)Br | C12H17BrO
reactant | hexane | 1.57 M | CCCCCC | C6H14
reactant | n-butyllithium | 93.32 mmol, 59.44 mL | C(CCC)[Li]
reactant | diethyldichlorosilane | 155.54 mmol, 24.44 g | C(C)[Si](Cl)(Cl)CC | C4H10Cl2Si
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | (2-methoxy-3-tert-butyl-5-methylphenyl)chlorodimethylsilane | COC1=C(C=C(C=C1C(C)(C)C)C)[Si](C)(C)Cl | C14H23ClOSi
